US07074819B2
4-[9-(t-Butyldimethylsilyloxy)-nonyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (0.62 g, 11.0 mmol) was dissolved in methanol (30 ml), PPTS (0.70 g) was added thereto, and the mixture was stirred at room temperature for 4 hours. After the reaction was completed, the reaction mixture was concentrated under reduced pressure. The residue was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=2:1) to give 4-(9-hydroxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (a mixture of (3RS,4RS) and (3RS,4SR), (3RS,4RS)/(3RS,4SR)=about 6/1, 370 mg, yield 77%). This compound thus obtained was dissolved in dichloromethane (20 ml), methanesulfonylchloride (0.40 g) and triethylamine (0.38 g) were added thereto, and the mixture was stirred at room temperature for 1 hour. After the reaction was completed, the reaction mixture was poured into water and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to preparative TLC using n-hexane/ethyl acetate (5/1 for 6 times) to produce (3RS,4RS)-4-(9-methanesulfonyloxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (241 mg, yield 56%).

reactant | 4-[9-(t-Butyldimethylsilyloxy)-nonyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 11.0 mmol, 0.62 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C35H56O6Si
reactant | PPTS | 0.70 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | n-hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
product | 4-(9-hydroxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | yield 77% | OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C29H42O6
